US06734191B2
To a solution of ethyl 6-methylsalicylate (1.27 g, 6.97 mmol) in THF (35 mL) was added lithium hydroxide monohydrate (0.594 g, 14.2 mmol) followed by dimethyl sulfate (1.00 mL, 10.6 mmol). The resultant mixture was heated to reflux for 1 hour then cooled to room temperature. The mixture was diluted with diethyl ether (70 mL), washed with saturated aqueous NaHCO3 (4×10 mL), dried (MgSO4) and concentrated. Purification of the crude material by column chromatography on silica gel (9:1 hexanes-EtOAc) provided 1.23 g (91%) of ethyl 2-methoxy-6-methylbenzoate as a white solid. 1H NMR (CDCl3) δ1.38 (t, 3H, J=7.2 Hz), 2.30 (s, 3H), 3.82 (s, 3H), 4.40 (q, 2H, J=7.2 Hz), 6.76 (d, 1H, J=8.4 Hz), 6.79 (d, 1H, J=7.8 Hz), 7.23 (dd, 1H, J=7.8, 8.4 Hz).

reactant | ethyl 6-methylsalicylate | 6.97 mmol, 1.27 g | CC=1C=CC=C(C1C(=O)OCC)O | C10H12O3
reactant | lithium hydroxide monohydrate | 14.2 mmol, 0.594 g | O.[OH-].[Li+]
reactant | dimethyl sulfate | 10.6 mmol, 1.00 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
product | ethyl 2-methoxy-6-methylbenzoate | 1.23 g, 91% | COC1=C(C(=O)OCC)C(=CC=C1)C | C11H14O3
